US04673746
3-chloro-2-hydroxy-4-methoxybenzaldehyde (1.48 g) is suspended in 15 ml of H2O and hydroxylamine-O-sulfonic acid (1.08 g) is added, along with 0.1 g of Na2SO4. After three hours an additional 15 ml of H2O is added. After a total of four hours the reaction mixture is treated with 8% NaHCO3 solution and then extracted into ether. Evaporation and trituration with hexane gives a solid product. Recrystallization from toluene/hexane gives 7-chloro-6-methoxy-1,2-benzisoxazole, mp 115°-118° C.

reactant | 3-chloro-2-hydroxy-4-methoxybenzaldehyde | 1.48 g | ClC=1C(=C(C=O)C=CC1OC)O | C8H7ClO3
reactant | hydroxylamine-O-sulfonic acid | 1.08 g | NOS(=O)(=O)O | H3NO4S
reactant | Na2SO4 | 0.1 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2O | 15 ml | O | H2O
solvent | H2O | 15 ml | O | H2O
product | 7-chloro-6-methoxy-1,2-benzisoxazole | ClC1=C(C=CC=2C=NOC21)OC | C8H6ClNO2
